US04154842
170 g (0.72 mol) of 4-acetoxy-1-bromo-3,3-dimethylbutan-2-one in 200 ml of acetone were added dropwise, over the course of 100 minutes, to a suspension of 92.1 g (0.72 mol) of 4-chlorophenol and 108 g (0.72 mol) of potassium carbonate in 1,000 ml of acetone. After heating for 15 hours whilst stirring under reflux, the mixture was filtered and the filtrate was concentrated by distilling off the solvent in vacuo. The residue was taken up in 200 ml of methylene chloride and the solution was washed three times with 50 ml of water at a time, dried over sodium sulphate and concentrated. The oily residue was distilled. 153 g (72% of theory) of 4-acetoxy-1-(4-chlorophenoxy)-3,3-dimethyl-butan-2-one of boiling point 140°-145° C./0.2 mm Hg was obtained.

reactant | 4-acetoxy-1-bromo-3,3-dimethylbutan-2-one | 0.72 mol, 170 g | C(C)(=O)OCC(C(CBr)=O)(C)C | C8H13BrO3
reactant | 4-chlorophenol | 0.72 mol, 92.1 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | 0.72 mol, 108 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | acetone | 1,000 ml | CC(=O)C | C3H6O
product | 4-acetoxy-1-(4-chlorophenoxy)-3,3-dimethyl-butan-2-one | 153 g, 72% | C(C)(=O)OCC(C(COC1=CC=C(C=C1)Cl)=O)(C)C | C14H17ClO4
